US06255494B1
Preparation of ethyl 2-benzyl-4-bromobutanoate
In absolute ethanol (78 ml), α-benzyl-γ-butyrolactone (14 g, 80 mmol) was added and then saturated for thirty minutes with gaseous hydrogen bromide, maintaining the temperature below 50° C. The reaction was then heated to 45° C. and stirred at this temperature for 16 hours. The solution was concentrated under reduced pressure and the resulting oil was taken into ethyl acetate (500 ml), washed once with water, and then dried over magnesium sulfate. The solvents were removed in vacuo to yield 15.13 grams of tan oil.

reactant | α-benzyl-γ-butyrolactone | 80 mmol, 14 g | C(C1=CC=CC=C1)C1C(=O)OCC1 | C11H12O2
reactant | hydrogen bromide | Br | BrH
reactant | ethanol | 78 ml | C(C)O | C2H6O
product | ethyl 2-benzyl-4-bromobutanoate | 15.13 grams | C(C1=CC=CC=C1)C(C(=O)OCC)CCBr | C13H17BrO2
